US07541073B2
Synthesis of 5-norbornene-2-methylcinnamate
After 5-norbornene-2-methanol (15 g, 0.121 mol), which was synthesized as described above, triethylamine (Aldrich, 61.2 g, 0.605 mol), and 20 ml of THF were put into a 250 ml two-neck flask, agitation was conducted in an ice-water bath at 0° C. Cinnamoyl chloride (22.1 g, 0.133 mol) was dissolved in 60 ml THF, and then slowly added to the reactants using an additional flask. After 10 min, the reactants were heated to room temperature, and agitation was conducted for an additional time of 1 hour. The solution was diluted using ethyl acetate, moved to a separatory funnel, washed with water and NaHCO3 a few times, and distilled under reduced pressure to remove the solvent. Purification was conducted using column chromatography (hexane:ethyl acetate=20:1) to obtain a product. (yield: 88%)

reactant | 5-norbornene-2-methanol | 0.121 mol, 15 g | C12C(CC(C=C1)C2)CO | C8H12O
reactant | triethylamine | 0.605 mol, 61.2 g | C(C)N(CC)CC | C6H15N
reactant | Cinnamoyl chloride | 0.133 mol, 22.1 g | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 5-norbornene 2-methylcinnamate | yield: 88% | C12CCC(C=C1)C2.CC1=C(C=CC(=O)[O-])C=CC=C1 | InChI=1S/C10H10O2.C7H10/c1-8-4-2-3-5-9(8)6-7-10(11)12;1-2-7-4-3-6(1)5-7/h2-7H,1H3,(H,11,12);1-2,6-7H,3-5H2/p-1
